2198-03-01 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2198-2-28**] 10:41 AM
   - Started aztreonam
   - Weaned off neo
   - Renal U/S: no hydronephrosis
   - R diagnostic thoracentesis: pH 7.10, LDH 2259, Gluc 81, WBC [**Numeric Identifier 5303**],
   gram stain with 4+ polys, 1+ GPCs, concentrated smear
   - Added Flagyl
   - Good UOP with 1L LR, NS piggybacks
   - HR sustained in 130s-140s, afib, BP ok gave metoprolol 5mg IV,, no
   change
   - Multiofcal pneumonia with a moderate right pleural effusion which
   appears to be superior to the large RML and RLL consolidation, raising
   the question of loculation. Accurate evaluation is limited due to lack
   of IV contrast (witheld in the setting of Cr=2.2). concomitant
   multifocal areas of consolidation, groundglass opacities and septal
   thickening with a mixed subpleural and central distribution
   (particularly left), part of this is due to multifocal pneumonia, may
   also have some contribution from superimposed mild edema.
   Allergies:
   Lisinopril
   Unknown;
   Ceftriaxone
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2198-2-28**] 08:00 AM
   Aztreonam - [**2198-3-1**] 04:25 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2198-2-28**] 05:30 PM
   Metoprolol - [**2198-3-1**] 03:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-1**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.7
   HR: 110 (104 - 127) bpm
   BP: 97/60(69) {71/48(54) - 156/125(131)} mmHg
   RR: 47 (27 - 47) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 9 (3 - 17)mmHg
   Total In:
                                                                  3,560 mL
                                                                    487 mL
   PO:
                                                                  1,000 mL
   TF:
   IVF:
                                                                  2,560 mL
                                                                    487 mL
   Blood products:
   Total out:
                                                                  5,250 mL
                                                                  2,260 mL
   Urine:
                                                                  5,250 mL
                                                                  2,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,690 mL
                                                                 -1,773 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General: Alert, oriented, appears slightly dyspnic although speaking in
   full sentences.
   HEENT: NC AT PERLA, EOMI Sclera anicteric, dry mucous membranes,
   oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: bronchial breath sounds to [**11-24**] way on the right with crackles
   and dullness to percussion, left with slight basilar crackles, no
   wheezing
   CV: tachycardic, irregularly irregular, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, slightly distended, bowel sounds present, no
   rebound tenderness or guarding
   Ext: warm, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   160 K/uL
   12.0 g/dL
   142 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.4 mEq/L
   39 mg/dL
   105 mEq/L
   141 mEq/L
   33.5 %
   15.4 K/uL
        [image002.jpg]
                             [**2198-2-28**]  08:03 AM
                             [**2198-2-28**]  06:28 PM
                             [**2198-3-1**]  05:14 AM
   WBC
   8.6
   15.4
   Hct
   33.2
   33.5
   Plt
   127
   160
   Cr
   3.5
   2.2
   1.4
   TropT
   <0.01
   Glucose
   95
   177
   142
   Other labs: PT / PTT / INR:14.3/31.1/1.2, CK / CKMB /
   Troponin-T:182/4/<0.01, ALT / AST:30/102, Alk Phos / T Bili:72/1.0,
   Amylase / Lipase:48/106, Differential-Neuts:41.0 %, Band:43.0 %,
   Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, D-dimer:2690 ng/mL, Fibrinogen:1076
   mg/dL, Albumin:2.5 g/dL, LDH:266 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.5 mg/dL
   Imaging: [**2198-3-1**] CT Chest: (prelim)
   Multiofcal pneumonia with a moderate right pleural effusion which
   appears to
   be superior to the large RML and RLL consolidation, raising the
   question of
   loculation. Accurate evaluation is limited due to lack of IV contrast
   (witheld in the setting of Cr=2.2). concomitant multifocal areas of
   consolidation, groundglass opacities and septal thickening with a mixed
   subpleural and central distribution (particularly left), part of this
   is due to multifocal pneumonia, may also have some contribution from
   superimposed mild edema.
   Microbiology: [**2198-2-28**] Pleural Fluid:
   4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         1+    (<1 per 1000X FIELD):
    GRAM POSITIVE COCCI.  IN PAIRS.
   [**2198-2-28**] Legionella Urine Ag negative
   [**2198-2-28**] Blood Cx: ngtd
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Mr. [**Known lastname 5277**] is a 46 yo M with PMH HTN, hyperlipid, h/o ETOH abuse
   presenting with hypotension, hypoxia RLL infiltrate and acute renal
   failure.
   .
   #Sepsis - likely [**12-25**] pneumonia given RLL infiltrate/effusion on CXR, no
   evidence of urine infection at this time.  Most likely CAP vs
   aspiration pneumonia given h/o profuse vomiting prior to onset of
   dyspnea.  Severity of systemic illness worrisome for staph or strep
   pneumo.  Other consideration is legionella given associated nausea and
   vomiting as well as significant hypoxia on admission.
   -vanc/levo for now to cover for CAP and possiblity of MRSA pna
   -continue aztreonam, vancomycine, levofloxacin, d/c flagyl
   - thoracentesis  yesterday with pH 7.1, CT with ? of loculation
   - thoracics on board for likely decortication in next 24-48hrs
   -IVF for CVP <10 (already given 7L IVF in ED)
   -off pressors
   -f/u blood cx, urine cx, stool cx
   -send sputum culture if able to provide sample
   -urine legionella antigen negative
   .
   #Acute Renal Failure - with relatively [**Name2 (NI) 5278**] sediment, moderate amount
   of blood but no casts on urine microscopy.  CK is not elevated.  Per
   patient no history of kidney disease at baseline.  Likely [**12-25**] sepsis
   and volume depletion.
   -renal ultrasound to eval for post obstructive cause although unlikely
   -drastically improved c/w pre-renal etiology
   -renally dose all meds, avoid nephrotoxins
   -already given 7L IVF in ED and CVP 10 on admission, hold off on
   further volume resuscitation for now
   .
   #anemia, thrombocytopenia, relative leukopenia with significant
   bandemia - likely [**12-25**] severe pneumonia and sepsis.   Also worrisome for
   possibility of DIC
   -improved today
   -monitor cbc, diff
   -fibrinogen, fdp, ddimer to eval for DIC negative
   -iron studies, retic count to eval anemia
   -active type and screen
   .
   #Atrial fibrillation
 appears to be new onset while in ED likely [**12-25**]
   severe pneumonia, hypoxia and sepsis.  He was started on heparin gtt in
   the ED presumably in case of need for cardioversion given concurrent
   hypotension.
   -monitor on tele
   -start low dose metoprolol for rate control
   -hold heparin gtt for now as plan for thoracentesis, may consider
   restarting if afib persistent and clinically stable if plan for
   cardioversion.
   ICU Care
   Nutrition:
   Glycemic Control: monitor
   Lines:
   20 Gauge - [**2198-2-28**] 06:30 AM
   Multi Lumen - [**2198-2-28**] 06:44 AM
   18 Gauge - [**2198-2-28**] 06:47 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: ICU

2198-03-02 06:55:00 Physician Resident Progress Note
Chief Complaint: RLL/RML PNA, ETOH withdrawal
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2198-3-1**] 03:00 PM
   [**3-1**]
   - thoracics- likely take to OR tomorrow afternoon depending on how he
   looks clinically
   - NPO after MN
   - TTE showed prelim no effusion, moderate global left ventricular
   hypokinesis (LVEF = 35 %). The right ventricular cavity is moderately
   dilated with mild global free wall hypokinesis. There is abnormal
   systolic septal motion/position consistent with right ventricular
   pressure overload
   - lopressor, diltiazem for afib, flipped into SR around 2300
   - placed on CIWA scale, delirious pulled CVL line out, given IV valium
   and restraints
   - received roughly 100mg IV diazepam
   - saturations decreased, taking off oxygen, increased agitation, was
   intubated this AM 7.41/42/39
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsLisinopril
   Unknown;
   Ceftriaxone
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2198-3-1**] 11:00 AM
   Levofloxacin - [**2198-3-1**] 11:15 AM
   Aztreonam - [**2198-3-1**] 08:19 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-3-1**] 10:00 AM
   Morphine Sulfate - [**2198-3-1**] 01:22 PM
   Metoprolol - [**2198-3-1**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2198-3-1**] 10:22 PM
   Diltiazem - [**2198-3-2**] 06:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-2**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 100 (93 - 145) bpm
   BP: 151/95(101) {83/52(63) - 151/95(143)} mmHg
   RR: 38 (27 - 48) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 7 (5 - 18)mmHg
   Total In:
                                                                  2,203 mL
                                                                     65 mL
   PO:
                                                                    600 mL
   TF:
   IVF:
                                                                  1,603 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  4,630 mL
                                                                  1,000 mL
   Urine:
                                                                  4,630 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,428 mL
                                                                   -936 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   General Appearance: Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   right lower lobe)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Oriented (to): x2, Movement:
   Non -purposeful, Tone: Normal, agitated
   Labs / Radiology
   183 K/uL
   11.8 g/dL
   123 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.0 mEq/L
   19 mg/dL
   102 mEq/L
   137 mEq/L
   32.8 %
   20.4 K/uL
        [image002.jpg]
                             [**2198-2-28**]  08:03 AM
                             [**2198-2-28**]  06:28 PM
                             [**2198-3-1**]  05:14 AM
                             [**2198-3-1**]  03:33 PM
                             [**2198-3-2**]  04:07 AM
   WBC
   8.6
   15.4
   20.4
   Hct
   33.2
   33.5
   32.8
   Plt
   127
   160
   183
   Cr
   3.5
   2.2
   1.4
   1.1
   0.8
   TropT
   <0.01
   Glucose
   95
   177
   142
   107
   123
   Other labs: PT / PTT / INR:13.3/31.3/1.1, CK / CKMB /
   Troponin-T:182/4/<0.01, ALT / AST:30/102, Alk Phos / T Bili:72/1.0,
   Amylase / Lipase:48/106, Differential-Neuts:57.0 %, Band:29.0 %,
   Lymph:3.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:2690 ng/mL, Fibrinogen:1076
   mg/dL, Albumin:2.5 g/dL, LDH:266 IU/L, Ca++:7.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:1.4 mg/dL
   Imaging: none today
   Microbiology: [**3-1**] cdiff neg
   [**2-28**] pleural fluid- 1+ GPC in pairs, ngtd on culture
   blood and urine ngtd
   ECG: [**2-28**] ECG- sinus
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Mr. [**Known lastname 5277**] is a 46 yo M with PMH HTN, hyperlipid, h/o ETOH abuse
   presenting with hypotension, hypoxia RLL infiltrate, loculated
   effusion, active ETOH withdrawal
   .
   #Sepsis - likely [**12-25**] pneumonia given RLL infiltrate/effusion on CXR, no
   evidence of urine infection at this time.  Most likely CAP vs
   aspiration pneumonia given h/o profuse vomiting prior to onset of
   dyspnea.  Severity of systemic illness worrisome for staph or strep
   pneumo.  Other consideration is legionella given associated nausea and
   vomiting as well as significant hypoxia on admission.   Intubated this
   AM for ETOH withdrawal, hypoxemia on NRB, tachypnea.
   - continue aztreonam, vancomycin, levofloxacin
   - wean vent settings throughout the day, low tidal volumes 7mg/kg given
   concern for development of ARDS
   - hold SQ heparin for now given likely chest tube placement
   - f/u CXR for ETT placement- in good position
   - thoracentesis with pH 7.1, CT with ? of loculation
   - thoracics on board for likely decortication vs chest tube today
   -IVF for decrease in UOP
   - f/u blood cx, urine cx, stool cx- NGTD
   - resend blood cx
   -send sputum culture if able to provide sample
   -urine legionella antigen negative
   .
   # ETOH withdrawal- history of ETOH abuse in past, unclear per family
   current amount of use
   - propofol gtt
   - thiamine IV
   - folate IV
   - place PICC line
   - motor neuro exam unrevealing, no focal deficits, if change then
   obtain CT head
   .
   #Acute Renal Failure - with relatively [**Name2 (NI) 5278**] sediment, moderate amount
   of blood but no casts on urine microscopy.  CK is not elevated.  Per
   patient no history of kidney disease at baseline.  Likely [**12-25**] sepsis
   and volume depletion.  Resolved.
   -Cr 0.8 now
   -renal ultrasound negative
   .
   # Depressed EF- DDX includes tachycardia from afib rate in 130s during
   TTE, sepsis, ETOH given global depression
   - will need repeat TTE prior to discharge to reevaluate EF, no valvular
   process
   .
   #anemia, thrombocytopenia, relative leukopenia with significant
   bandemia - likely [**12-25**] severe pneumonia and sepsis.   Also worrisome for
   possibility of DIC
   -plt normal, anemia stable
   -monitor cbc, diff
   -fibrinogen, fdp, ddimer to eval for DIC negative
   -ferritin >1000,
   -active type and screen
   .
   #Atrial fibrillation
 appears to be new onset while in ED likely [**12-25**]
   severe pneumonia, hypoxia and sepsis.  He was started on heparin gtt in
   the ED presumably in case of need for cardioversion given concurrent
   hypotension.
   - back in SR after IV diltiazem, confirmed on ECG
   -monitor on tele
   - d/c lopressor
   .
   # ACCESS-  3 PIV, arterial line placement
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines: 2 PIV
   20 Gauge - [**2198-2-28**] 06:30 AM
   18 Gauge - [**2198-2-28**] 06:47 AM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2198-03-03 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2198-3-2**] 08:15 AM
 CHEST TUBE PLACED - At [**2198-3-2**] 09:42 AM
 MULTI LUMEN - START [**2198-3-2**] 04:25 PM
 BLOOD CULTURED - At [**2198-3-2**] 04:50 PM
   aline
 BLOOD CULTURED - At [**2198-3-2**] 05:00 PM
   RIJ
 BLOOD CULTURED - At [**2198-3-3**] 12:40 AM
   aline
 URINE CULTURE - At [**2198-3-3**] 12:40 AM
 FEVER - 103.0
F - [**2198-3-3**] 12:00 AM
   Intubated in the morning given worsening agitation and desaturation
   Initially on propofol for sedation however changed to fentanyl/versed
   due to hypotension.
   Chest Tube placed at the bedside by CT surgery.
   right IJ replaced in the afteroon
   Given total 4L NS
   Continued to require pressor support with neosynephrine
   Spiked temp to 103
   Continued to have hives, improved with benadryl
   Chest tube output of 350 cc
   Allergies:
   Lisinopril
   Unknown;
   Ceftriaxone
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2198-3-2**] 11:00 AM
   Vancomycin - [**2198-3-2**] 10:00 PM
   Aztreonam - [**2198-3-3**] 05:23 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Diazepam (Valium) - [**2198-3-2**] 07:48 AM
   Lansoprazole (Prevacid) - [**2198-3-2**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-3**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.1
C (100.6
   HR: 72 (61 - 102) bpm
   BP: 113/68(85) {77/47(56) - 128/81(97)} mmHg
   RR: 18 (10 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 11 (7 - 12)mmHg
   Total In:
                                                                  4,546 mL
                                                                  2,622 mL
   PO:
   TF:
   IVF:
                                                                  4,546 mL
                                                                  2,622 mL
   Blood products:
   Total out:
                                                                  3,170 mL
                                                                    880 mL
   Urine:
                                                                  2,820 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,376 mL
                                                                  1,742 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 29
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.36/43/68/22/-1
   Ve: 9.9 L/min
   PaO2 / FiO2: 136
   Physical Examination
   Gen: Intuated, sedated
   HEENT: eyes closed, anicteric sclera
   Neck: supple, IJ in place
   Heart: Regular, no m/r/g
   Lungs: Coarse BS diffusely with rhonci, decreased at bases.  Bronchial
   breath sounds Chest tube in place
   Abd: soft NT/ND + BS
   Ext: warm well perfused no pitting edema
   Skin: scattered wheels
   Neuro: Deferred given patient sedated
   Labs / Radiology
   200 K/uL
   11.4 g/dL
   104 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   14 mg/dL
   109 mEq/L
   141 mEq/L
   34.3 %
   21.7 K/uL
        [image002.jpg]
                             [**2198-2-28**]  06:28 PM
                             [**2198-3-1**]  05:14 AM
                             [**2198-3-1**]  03:33 PM
                             [**2198-3-2**]  04:07 AM
                             [**2198-3-2**]  06:58 AM
                             [**2198-3-2**]  10:37 AM
                             [**2198-3-2**]  04:45 PM
                             [**2198-3-2**]  04:59 PM
                             [**2198-3-2**]  10:34 PM
                             [**2198-3-3**]  12:36 AM
   WBC
   15.4
   20.4
   21.7
   Hct
   33.5
   32.8
   34.3
   Plt
   160
   183
   200
   Cr
   2.2
   1.4
   1.1
   0.8
   0.7
   0.7
   TCO2
   28
   24
   23
   25
   Glucose
   177
   142
   107
   123
   88
   104
   Other labs: PT / PTT / INR:14.6/29.4/1.3, CK / CKMB /
   Troponin-T:182/4/<0.01, ALT / AST:30/102, Alk Phos / T Bili:72/1.0,
   Amylase / Lipase:48/106, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:7.8 %, Mono:2.3 %, Eos:0.5 %, D-dimer:2690 ng/mL, Fibrinogen:1076
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:266 IU/L, Ca++:6.9
   mg/dL, Mg++:1.4 mg/dL, PO4:1.7 mg/dL
   MICRO:
   Pleural fluid [**2-28**]: 1+ GPCs
   Sputum [**3-1**]: contaminated
   Blood cx [**Date range (1) 5327**]: NGTD
   Stool [**3-1**]: Negative
   IMAGES: CXR [**3-2**]
   ETT 5.7 cm above the carina. New right IJ CVL with tip at cavoatrial
   juction.
   Multifocal opacities persist with little change consistent with
   multifocal
   pneumonia. Right paramediastinal opacity is again seen yet smaller than
   [**3-2**] measuring 2.3 cm in width previously 3.7 cm with continued follow
   up
   advised. No pneumothorax
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Mr. [**Known lastname 5277**] is a 46 yo M with PMH HTN, hyperlipid, h/o ETOH abuse
   presenting with hypotension, hypoxia RLL infiltrate, loculated
   effusion, active ETOH withdrawal
   .
   #Sepsis - [**12-25**] large RLL pneumonia with GPC
s in chains on gram stain of
   pleural fluid which was c/w exudative parapneumonic effusion.  Currnet
   cliical picture worrisome for sever Strep penumo infection.  Continues
   to require pressor support, with temp up to 103 overnight.  CXR this
   morning with worsening right sided infiltrate, unclear if worsening
   consolidation or persistent loculated effusion.  He is s/p right chest
   tube placement with about 400ml output thoracics feels that chest tube
   in good position and feels that worsening infiltrate likely
   consolidation.  Intubated this [**3-3**] for ETOH withdrawal, hypoxemia on
   NRB, tachypnea.  Urine legionella antigen negative.
   - continue aztreonam, vancomycin, levofloxacin
   -will add clinda to cover for anerobes
   -thoracics recommending [**Last Name (un) 1599**] to obtain sputum sample
   - hold SQ heparin for now given likely chest tube placement
   - f/u CXR for ETT placement- in good position
   - CTA to further evaluate worsening infiltrate ?consolidation vs
   loculated effusion
   -IVF boluses prn for decrease in UOP
   - f/u blood cx, urine cx, stool cx- NGTD
   -f/u CT [**Doctor First Name **] reccs
   .
   # ETOH withdrawal- history of ETOH abuse in past, unclear per family
   current amount of use
   - on versed gtt for sedation
   - thiamine IV
   - folate IV
   - place PICC line
   - motor neuro exam unrevealing, no focal deficits, if change then
   obtain CT head
   .
   #Acute Renal Failure
 Resolved with IVF, now back to baseline.
   # Depressed EF- DDX includes tachycardia from afib rate in 130s during
   TTE, sepsis, ETOH given global depression
   - will need repeat TTE prior to discharge to reevaluate EF, no valvular
   process
   .
   #anemia, thrombocytopenia, relative leukopenia with significant
   bandemia - likely [**12-25**] severe pneumonia and sepsis.
   -plt normal, anemia stable
   -monitor cbc, diff
   -ferritin >1000,
   -active type and screen
   .
   #Atrial fibrillation
 appears to be new onset while in ED likely [**12-25**]
   severe pneumonia, hypoxia and sepsis.  Now converted back to sinus
   rhythm x 24 hours.
   -monitor on tele
   - lopressor d/c
d given hypotension
   .
   # ACCESS-  3 PIV, arterial line placement, RIJ
   ICU Care
   Nutrition: NPO, holding tube feeds for now pending decision about need
   for surgery
   Glycemic Control:
   Lines:
   Arterial Line - [**2198-3-2**] 08:15 AM
   18 Gauge - [**2198-3-2**] 09:00 AM
   20 Gauge - [**2198-3-2**] 10:21 AM
   Multi Lumen - [**2198-3-2**] 04:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2198-3-3**] 15:01 ------

2198-03-03 11:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   aggitated [**3-2**] likely [**12-25**] etoh withdrawal
   received 100 mg valium
   intubated for aggitation, now on fentanyl/versed ([**12-25**] HTN with
   propofol)
   Ct placed for complicated pleural effusion
   Tm 103
   Hives intermittent
   Allergies:
   Lisinopril
   Unknown;
   Ceftriaxone
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2198-3-2**] 11:00 AM
   Aztreonam - [**2198-3-3**] 05:23 AM
   Vancomycin - [**2198-3-3**] 08:00 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2198-3-2**] 11:00 AM
   Other medications:
   senna, colace
   folate
   thiamine
   mvi
   chlorhexadine
   lanzoprazole 30
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-3**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 37.7
C (99.9
   HR: 79 (70 - 99) bpm
   BP: 90/57(69) {90/57(69) - 126/77(94)} mmHg
   RR: 12 (10 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 11 (7 - 12)mmHg
   Total In:
                                                                  4,546 mL
                                                                  3,798 mL
   PO:
   TF:
   IVF:
                                                                  4,546 mL
                                                                  3,798 mL
   Blood products:
   Total out:
                                                                  3,170 mL
                                                                  1,760 mL
   Urine:
                                                                  2,820 mL
                                                                  1,710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,376 mL
                                                                  2,038 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 29
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.36/43/68/22/-1
   Ve: 9.5 L/min
   PaO2 / FiO2: 136
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : L anteriorly,
   Rhonchorous: )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   200 K/uL
   104 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   14 mg/dL
   109 mEq/L
   141 mEq/L
   34.3 %
   21.7 K/uL
        [image002.jpg]
                             [**2198-2-28**]  06:28 PM
                             [**2198-3-1**]  05:14 AM
                             [**2198-3-1**]  03:33 PM
                             [**2198-3-2**]  04:07 AM
                             [**2198-3-2**]  06:58 AM
                             [**2198-3-2**]  10:37 AM
                             [**2198-3-2**]  04:45 PM
                             [**2198-3-2**]  04:59 PM
                             [**2198-3-2**]  10:34 PM
                             [**2198-3-3**]  12:36 AM
   WBC
   15.4
   20.4
   21.7
   Hct
   33.5
   32.8
   34.3
   Plt
   160
   183
   200
   Cr
   2.2
   1.4
   1.1
   0.8
   0.7
   0.7
   TCO2
   28
   24
   23
   25
   Glucose
   177
   142
   107
   123
   88
   104
   Other labs: PT / PTT / INR:14.6/29.4/1.3, CK / CKMB /
   Troponin-T:182/4/<0.01, ALT / AST:30/102, Alk Phos / T Bili:72/1.0,
   Amylase / Lipase:48/106, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:7.8 %, Mono:2.3 %, Eos:0.5 %, D-dimer:2690 ng/mL, Fibrinogen:1076
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:266 IU/L, Ca++:6.9
   mg/dL, Mg++:1.4 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   46 yo M htn, hl, etoh abuse, now w RLL pna and complex parapneumonic
   effusion/empyema
   1. PNA:
    - s/p ct placement
    - gpc in pairs in pleural fluid
    - cont vanc/levo/aztreonam
    - f/u vanc level, goal 15-20
    - given persistent fevers, increased wbc, concern for loculated
   effusion and likely need for vats, will d/w thoracics
   2. ETOH withdrawal:
    - on fentanyl/versed
    - thiamine, folte, mvi
   3. ARF:
    - creatinine resolved
   4. new depressed EF:
     - likely in setting of sepsis, will repeat when hemodynamically
   stable
   5. Anemia:
    - DIC panel negative, ? chronic illness
   6. PAF: now in sinus
    - cont neo for bp control
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2198-3-2**] 08:15 AM
   18 Gauge - [**2198-3-2**] 09:00 AM
   20 Gauge - [**2198-3-2**] 10:21 AM
   Multi Lumen - [**2198-3-2**] 04:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :
   Total time spent: 30 minutes

2198-03-04 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2198-3-3**] 12:00 PM
   -Vanco trough 9.9 -> increased to 1g IV q8
   -Repeated CT scan with IV contrast.  Showed persistent ? improved RLL
   opacity with interval improvement in pleural effusion.
   -Thoracics: cont chest tube and antibiotics.  Cont to follow clinically
   -Cont on Neosynephrine, given 1L bolus LR
   -ABG 7.3/32/71 -> increased PEEP to 8
   Patient unable to provide history: Sedated
   Allergies:
   Lisinopril
   Unknown;
   Ceftriaxone
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2198-3-2**] 11:00 AM
   Vancomycin - [**2198-3-3**] 09:33 PM
   Aztreonam - [**2198-3-4**] 05:13 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 150 mcg/hour
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-4**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 76 (67 - 92) bpm
   BP: 113/72(87) {85/52(67) - 126/88(142)} mmHg
   RR: 16 (9 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 16 (11 - 16)mmHg
   Total In:
                                                                  6,902 mL
                                                                    495 mL
   PO:
   TF:
   IVF:
                                                                  6,902 mL
                                                                    435 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  1,290 mL
   Urine:
                                                                  3,590 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,202 mL
                                                                   -795 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 285 (285 - 285) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 36 cmH2O
   Plateau: 26 cmH2O
   SpO2: 97%
   ABG: 7.30/52/71/23/-1
   Ve: 5.7 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Gen: Intuated, sedated
   HEENT: eyes closed, anicteric sclera
   Neck: supple, IJ in place
   Heart: Regular, no m/r/g, hyperdynamic
   Lungs: Coarse BS diffusely with rhonci, decreased at bases.  Bronchial
   breath sounds Chest tube in place
   Abd: soft NT/ND + BS
   Ext: warm well perfused no pitting edema
   Skin: scattered wheels
   Neuro: Deferred given patient sedated
   Labs / Radiology
   196 K/uL
   10.8 g/dL
   106 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.3 mEq/L
   5 mg/dL
   108 mEq/L
   140 mEq/L
   32.4 %
   24.9 K/uL
        [image002.jpg]
                             [**2198-3-2**]  06:58 AM
                             [**2198-3-2**]  10:37 AM
                             [**2198-3-2**]  04:45 PM
                             [**2198-3-2**]  04:59 PM
                             [**2198-3-2**]  10:34 PM
                             [**2198-3-3**]  12:36 AM
                             [**2198-3-3**]  10:57 AM
                             [**2198-3-3**]  04:03 PM
                             [**2198-3-3**]  04:22 PM
                             [**2198-3-4**]  03:57 AM
   WBC
   21.7
   24.9
   Hct
   34.3
   32.4
   Plt
   200
   196
   Cr
   0.7
   0.7
   0.5
   0.6
   TCO2
   28
   24
   23
   25
   24
   27
   Glucose
   88
   104
   114
   106
   Other labs: PT / PTT / INR:14.6/29.5/1.3, CK / CKMB /
   Troponin-T:182/4/<0.01, ALT / AST:30/102, Alk Phos / T Bili:72/1.0,
   Amylase / Lipase:48/106, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:7.8 %, Mono:2.3 %, Eos:0.5 %, D-dimer:2690 ng/mL, Fibrinogen:1076
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:266 IU/L, Ca++:7.0
   mg/dL, Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Sputum [**3-3**]: No micros seen
   Urine [**3-3**]: NGTD
   Blood [**Date range (1) 5336**]: NGTD
   Stool [**3-1**]: neg for C diff
   CT Chest w Contrast [**3-3**]:
   IMPRESSION:
   1. Multifocal consolidation with slight interval improvement in the
   right
   lower lobe. Two regions of round hypoenhancement are seen in the
   posterior
   right lung. While the superior region may represent fluid in the major
   fissure, the posterior right lower lobe finding is concerning for
   small area of necrosis.
   2. Interval placement of a right chest tube since the prior CT scan
   with
   interval improvement in the right pleural effusion. A trace right
   pleural
   effusion persists.
   3. Fat stranding is seen medial to the right internal jugular vein.
   While
   this finding may be related to right IJ line placement,
   thrombophlebitis is
   not excluded. An ultrasound may be useful for further evaluation
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Mr. [**Known lastname 5277**] is a 46 yo M with PMH HTN, hyperlipid, h/o ETOH abuse
   presenting with hypotension, hypoxia RLL infiltrate, loculated
   effusion, active ETOH withdrawal
   .
   #Sepsis - [**12-25**] large RLL pneumonia with GPC
s in chains on gram stain of
   pleural fluid which was c/w complex parapneumonic effusion vs empyema.
   Currnet cliical picture worrisome for sever Strep penumo infection.
   Continues to require pressor support, with temp up to 103.  CXR with
   worsening right sided infiltrate, unclear if worsening consolidation or
   persistent loculated effusion.  He is s/p right chest tube placement
   with about 400ml output thoracics feels that chest tube in good
   position and feels that worsening infiltrate likely consolidation.
   Intubated this [**3-3**] for ETOH withdrawal, hypoxemia on NRB, tachypnea.
   Urine legionella antigen negative.  CT chest [**3-3**] with slight
   improvement in RLL infiltrate/pleural effusion, though ? area of lung
   necrosis
   - continue aztreonam, vancomycin, levofloxacin, added clindamycin [**3-3**]
   - vanco increased to 1g q8 -> f/u trough today
   - thoracics recommending [**Last Name (un) 1599**] to obtain sputum sample, ? decortication
   if no improvement
   - hold SQ heparin for now given ? procedures
   - Daily CXR
   -IVF boluses prn for decrease in UOP
   - f/u blood cx, urine cx, stool cx- NGTD
   - Pressor support as needed
   .
   # ETOH withdrawal- history of ETOH abuse in past, unclear per family
   current amount of use
   - on versed gtt for sedation
   - thiamine IV
   - folate IV
   - motor neuro exam unrevealing, no focal deficits, if change then
   obtain CT head
   .
   #Acute Renal Failure
 Resolved with IVF, now back to baseline.
   # Depressed EF- DDX includes tachycardia from afib rate in 130s during
   TTE, sepsis, ETOH given global depression
   - will need repeat TTE prior to discharge to reevaluate EF, no valvular
   process
   .
   # Anemia, thrombocytopenia, relative leukopenia with significant
   bandemia - likely [**12-25**] severe pneumonia and sepsis.
   -plt normal, anemia stable
   -monitor cbc, diff
   -ferritin >1000,
   -active type and screen
   .
   # Atrial fibrillation
 appears to be new onset while in ED likely [**12-25**]
   severe pneumonia, hypoxia and sepsis.  Now converted back to sinus
   rhythm x 24 hours.
   - monitor on tele
   - lopressor d/c
d given hypotension
   .
   # Access -  3 PIV, arterial line placement, RIJ
   ICU Care
   Nutrition: start tube feeds today as likely no procedure this weekend
   Glycemic Control:
   Lines:
   Arterial Line - [**2198-3-2**] 08:15 AM
   18 Gauge - [**2198-3-2**] 09:00 AM
   20 Gauge - [**2198-3-2**] 10:21 AM
   Multi Lumen - [**2198-3-2**] 04:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2198-03-04 09:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Contrast chest CT with slight improvement RLL infiltrate but area
   concerning for necrosis
                   History obtained from Medical records
   Allergies:
   Lisinopril
   Unknown;
   Ceftriaxone
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2198-3-2**] 11:00 AM
   Vancomycin - [**2198-3-3**] 09:33 PM
   Aztreonam - [**2198-3-4**] 05:13 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 150 mcg/hour
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Other medications:
   clindamycin 300 mg q 6 hr
   NAC 600 x 4
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-4**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 76 (67 - 92) bpm
   BP: 122/68(88) {85/52(67) - 126/88(142)} mmHg
   RR: 15 (9 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 16 (16 - 16)mmHg
   Total In:
                                                                  6,902 mL
                                                                    597 mL
   PO:
   TF:
   IVF:
                                                                  6,902 mL
                                                                    537 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  1,290 mL
   Urine:
                                                                  3,590 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,202 mL
                                                                   -693 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 285 (285 - 285) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 36 cmH2O
   Plateau: 26 cmH2O
   SpO2: 96%
   ABG: 7.31/55/118/23/0
   Ve: 5.7 L/min
   PaO2 / FiO2: 236
   Physical Examination
   Intubated, sedated, opens eyes to command
   S1/S2 rrr no m/r/g
   Chest: rhonchorous breath sounds anteriorly
   ABD: soft, nt, nd
   EXT: wwp, no c/c/e
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present),), (Left DP pulse: present),)
   Skin:  warm
   Labs / Radiology
   10.8 g/dL
   196 K/uL
   106 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.3 mEq/L
   5 mg/dL
   108 mEq/L
   140 mEq/L
   32.4 %
   24.9 K/uL
        [image002.jpg]
                             [**2198-3-2**]  10:37 AM
                             [**2198-3-2**]  04:45 PM
                             [**2198-3-2**]  04:59 PM
                             [**2198-3-2**]  10:34 PM
                             [**2198-3-3**]  12:36 AM
                             [**2198-3-3**]  10:57 AM
                             [**2198-3-3**]  04:03 PM
                             [**2198-3-3**]  04:22 PM
                             [**2198-3-4**]  03:57 AM
                             [**2198-3-4**]  07:56 AM
   WBC
   21.7
   24.9
   Hct
   34.3
   32.4
   Plt
   200
   196
   Cr
   0.7
   0.7
   0.5
   0.6
   TCO2
   24
   23
   25
   24
   27
   29
   Glucose
   88
   104
   114
   106
   Other labs: PT / PTT / INR:14.6/29.5/1.3, CK / CKMB /
   Troponin-T:182/4/<0.01, ALT / AST:30/102, Alk Phos / T Bili:72/1.0,
   Amylase / Lipase:48/106, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:7.8 %, Mono:2.3 %, Eos:0.5 %, D-dimer:2690 ng/mL, Fibrinogen:1076
   mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:266 IU/L, Ca++:7.0
   mg/dL, Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   46 yo M etoh here w PNA and complicated empyema. Possible area of
   evolving necrosis on CT scan
   1. PNA/respiratory failure:
    - cont vanc/aztreonam/Levo/Clinda
    - will change clinda and levo to IV
    - cont CT to suction
    - will aim for CVP 8-10
   -Remains on AC ventilation; wean PEEP as tolerated
   2.  HoTN:
    - Cont neo
    - will change sedation to propofol
   3. ETOH w/drawal:
    - on versed, will switch to propofol
   4. Depressed EF:
    - tte obtained during Afib
    - will repeat when stable
   5. Afib:
    - likely [**12-25**] etoh/hypoxemia, now stable
   6. FEN:
    - starting tube feeds
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2198-3-2**] 08:15 AM
   18 Gauge - [**2198-3-2**] 09:00 AM
   20 Gauge - [**2198-3-2**] 10:21 AM
   Multi Lumen - [**2198-3-2**] 04:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Pt is critically ill

2198-03-05 09:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2198-3-4**] 04:56 PM
 URINE CULTURE - At [**2198-3-4**] 04:56 PM
 SPUTUM CULTURE - At [**2198-3-4**] 08:42 PM
 SPUTUM CULTURE - At [**2198-3-5**] 05:17 AM
 FEVER - 103.0
F - [**2198-3-4**] 08:00 PM
   - increased rr for r. acidosis repeat gas 7.39/44/87
   - 2.5 L saline for hypotension, CVP 3, improvement in MAPs
   - pan cx for fever
   - off neo since midnight
   - plenty of secretions
   Patient unable to provide history: Sedated
   Allergies:
   Lisinopril
   Unknown;
   Ceftriaxone
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2198-3-2**] 11:00 AM
   Aztreonam - [**2198-3-5**] 04:00 AM
   Clindamycin - [**2198-3-5**] 06:58 AM
   Vancomycin - [**2198-3-5**] 08:55 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-3-5**] 08:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-5**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.3
C (101
   HR: 87 (60 - 105) bpm
   BP: 90/48(59) {73/45(56) - 121/93(99)} mmHg
   RR: 20 (11 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 13 (3 - 14)mmHg
   Total In:
                                                                  4,676 mL
                                                                  2,826 mL
   PO:
   TF:
                                                                     39 mL
   IVF:
                                                                  4,531 mL
                                                                  2,737 mL
   Blood products:
   Total out:
                                                                  4,360 mL
                                                                    948 mL
   Urine:
                                                                  4,330 mL
                                                                    948 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    316 mL
                                                                  1,878 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 564 (564 - 564) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 52
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.38/49/71/24/2
   Ve: 10.2 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Intubated, sedated, opens eyes to command
   S1/S2 rrr no m/r/g
   Chest: rhonchorous breath sounds anteriorly
   ABD: soft, nt, nd
   EXT: wwp, no c/c/e
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present),), (Left DP pulse: present),)
   Skin:  warm
   Labs / Radiology
   222 K/uL
   10.6 g/dL
   106 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.8 mEq/L
   5 mg/dL
   105 mEq/L
   137 mEq/L
   30.6 %
   13.9 K/uL
        [image002.jpg]
                             [**2198-3-2**]  10:34 PM
                             [**2198-3-3**]  12:36 AM
                             [**2198-3-3**]  10:57 AM
                             [**2198-3-3**]  04:03 PM
                             [**2198-3-3**]  04:22 PM
                             [**2198-3-4**]  03:57 AM
                             [**2198-3-4**]  07:56 AM
                             [**2198-3-4**]  03:00 PM
                             [**2198-3-5**]  04:04 AM
                             [**2198-3-5**]  06:14 AM
   WBC
   21.7
   24.9
   13.9
   Hct
   34.3
   32.4
   30.6
   Plt
   200
   196
   222
   Cr
   0.7
   0.5
   0.6
   0.5
   TCO2
   25
   24
   27
   29
   28
   30
   Glucose
   104
   114
   106
   106
   Other labs: PT / PTT / INR:14.6/29.5/1.3, CK / CKMB /
   Troponin-T:182/4/<0.01, ALT / AST:30/102, Alk Phos / T Bili:72/1.0,
   Amylase / Lipase:48/106, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:7.8 %, Mono:2.3 %, Eos:0.5 %, D-dimer:2690 ng/mL, Fibrinogen:1076
   mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:266 IU/L, Ca++:6.5
   mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Sputum [**3-5**]: 1+ GNRs
   Blood cx [**3-4**]: NGTD
   Urine cx [**3-4**]: NGTD
   Blood cx [**3-2**]: NGTD
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Mr. [**Known lastname 5277**] is a 46 yo M with PMH HTN, hyperlipid, h/o ETOH abuse
   presenting with hypotension, hypoxia RLL infiltrate, loculated
   effusion, active ETOH withdrawal
   .
   #Sepsis - [**12-25**] large RLL pneumonia with GPC
s in chains on gram stain of
   pleural fluid which was c/w complex parapneumonic effusion vs empyema.
   Currnet cliical picture worrisome for sever Strep penumo infection.
   Continues to require pressor support, with temp up to 103.  CXR with
   worsening right sided infiltrate, unclear if worsening consolidation or
   persistent loculated effusion.  He is s/p right chest tube placement
   with about 400ml output thoracics feels that chest tube in good
   position and feels that worsening infiltrate likely consolidation.
   Intubated [**3-3**] for ETOH withdrawal, hypoxemia on NRB, tachypnea.  Urine
   legionella antigen negative.  CT chest [**3-3**] with slight improvement in
   RLL infiltrate/pleural effusion, though ? area of lung necrosis
   - continue aztreonam, vancomycin, levofloxacin, added clindamycin [**3-3**]
   - vanco increased to 1g q8, trough [**3-5**] low -> increase to 1250mg IV q8
   and follow trough
   - thoracics recommending [**Last Name (un) 1599**] to obtain sputum sample, ? decortication
   if no improvement
   - restart heparin SQ
   - Daily CXR
   - IVF boluses prn for decrease in UOP or CVP <80
   - f/u blood cx, urine cx, stool cx- NGTD
   - Pressor support as needed
   .
   Respiratory Failure:  Intubated in the setting of withdrawal
   - Will wean and plan to extubate if Thoracics is not planning to
   intervene
   - Daily RSBIs, vent care
   .
   # ETOH withdrawal- history of ETOH abuse in past, unclear per family
   current amount of use
   - on versed gtt for sedation
   - thiamine IV
   - folate IV
   - motor neuro exam unrevealing, no focal deficits, if change then
   obtain CT head
   .
   #Acute Renal Failure
 Resolved with IVF, now back to baseline.
   # Depressed EF- DDX includes tachycardia from afib rate in 130s during
   TTE, sepsis, ETOH given global depression
   - will need repeat TTE prior to discharge to reevaluate EF, no valvular
   process
   .
   # Anemia - likely [**12-25**] severe pneumonia and sepsis.
   -stable
   -ferritin >1000,
   -active type and screen
   .
   # Atrial fibrillation
 appears to be new onset while in ED likely [**12-25**]
   severe pneumonia, hypoxia and sepsis.  Now converted back to sinus
   rhythm x 72 hours.
   - monitor on tele
   - lopressor d/c
d given hypotension
   .
   # Access -  arterial line placement, RIJ
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2198-3-2**] 08:15 AM
   Multi Lumen - [**2198-3-2**] 04:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   46M ETOH abuse, pneumonia, sepsis, ETOH withdrawal.  Continues to spike
   and make sig secretions but is making progress from hemodynamic
   perspective
 neo weaned to off overnight.   Continue broad spectrum
   abx pending cx data guidance.  Pan cx again overnight with spike.  ETOH
   withdrawal complicating care, cont dose per CIWA scale.  New onset
   afib.
   Pr remains critically ill.
   Time spent on care: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) 323**], MD
   on:[**2198-3-5**] 18:09 ------

2198-03-06 08:05:00 Physician Resident Progress Note
Chief Complaint: PNA, ETOH withdrawal
   24 Hour Events:
 BLOOD CULTURED - At [**2198-3-5**] 04:30 PM
 URINE CULTURE - At [**2198-3-5**] 04:46 PM
 FEVER - 103.8
F - [**2198-3-5**] 04:00 PM
   Advanced ETT with likely mucous plugging and desats after with
   increased secretions.
   Changed back to AC due to desats on pressure support following
   advancing the tube.
   Continued to spike fevers to 102-103
   Blood pressure improved, was on/off small amount of neo, got 1.5 L IVF
   total for BP.
   Still requiring aggressive electrolyte repletion
   History obtained from Medical records
   Allergies:
   Lisinopril
   Unknown;
   Ceftriaxone
   Hives;
   Last dose of Antibiotics:
   Clindamycin - [**2198-3-5**] 11:59 PM
   Vancomycin - [**2198-3-6**] 12:30 AM
   Aztreonam - [**2198-3-6**] 04:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-3-6**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-6**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 38.7
C (101.6
   HR: 89 (68 - 105) bpm
   BP: 133/88(101) {78/48(59) - 134/95(102)} mmHg
   RR: 20 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 10 (3 - 20)mmHg
   Total In:
                                                                  5,412 mL
                                                                  1,498 mL
   PO:
   TF:
                                                                    479 mL
                                                                    327 mL
   IVF:
                                                                  4,844 mL
                                                                  1,081 mL
   Blood products:
   Total out:
                                                                  2,588 mL
                                                                  1,020 mL
   Urine:
                                                                  2,588 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,824 mL
                                                                    478 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 570 (371 - 570) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 62
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.43/40/107/26/1
   Ve: 11 L/min
   PaO2 / FiO2: 214
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : ), (Breath Sounds:
   Diminished: ), intubated
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   235 K/uL
   10.2 g/dL
   140 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   6 mg/dL
   106 mEq/L
   137 mEq/L
   29.0 %
   11.5 K/uL
        [image002.jpg]
                             [**2198-3-3**]  04:22 PM
                             [**2198-3-4**]  03:57 AM
                             [**2198-3-4**]  07:56 AM
                             [**2198-3-4**]  03:00 PM
                             [**2198-3-5**]  04:04 AM
                             [**2198-3-5**]  06:14 AM
                             [**2198-3-5**]  03:56 PM
                             [**2198-3-5**]  04:21 PM
                             [**2198-3-6**]  04:18 AM
                             [**2198-3-6**]  04:35 AM
   WBC
   24.9
   13.9
   11.5
   Hct
   32.4
   30.6
   29.0
   Plt
   196
   222
   235
   Cr
   0.6
   0.5
   0.5
   0.5
   TCO2
   27
   29
   28
   30
   27
   27
   Glucose
   106
   106
   116
   140
   Other labs: PT / PTT / INR:14.9/31.5/1.3, CK / CKMB /
   Troponin-T:182/4/<0.01, ALT / AST:30/102, Alk Phos / T Bili:72/1.0,
   Amylase / Lipase:48/106, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:7.8 %, Mono:2.3 %, Eos:0.5 %, D-dimer:2690 ng/mL, Fibrinogen:1076
   mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:266 IU/L, Ca++:6.5
   mg/dL, Mg++:1.2 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR
   Microbiology: sputum [**3-5**] 1+ gnr
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Mr. [**Known lastname 5277**] is a 46 yo M with PMH HTN, hyperlipid, h/o ETOH abuse
   presenting with hypotension, hypoxia RLL infiltrate, loculated
   effusion.
   .
   #Sepsis - [**12-25**] large RLL pneumonia with GPC
s in chains on gram stain of
   pleural fluid which was c/w complex parapneumonic effusion vs empyema.
   Currnet cliical picture worrisome for severe Strep penumo infection.
   Continues to require pressor support, with temp spikes throughout the
   day up to 103.  CXR with worsening right sided infiltrate, also some
   left sided infiltrates as wellIntubated [**3-3**] for ETOH withdrawal,
   hypoxemia on NRB, tachypnea.  Urine legionella antigen negative.  CT
   chest [**3-3**] with slight improvement in RLL infiltrate/pleural effusion,
   though ? area of lung necrosis.  Chest tube put to water seal by
   thoracics this morning.
   -pm cxr to eval for increasing effusion/ptx
   - continue aztreonam, vancomycin, levofloxacin day 6, added clindamycin
   day 4
   - vanco increased to 1g q8, trough [**3-5**] low -> increase to 1250mg IV q8
   and follow trough
   - thoracics recommending [**Last Name (un) 1599**] to obtain sputum sample, not felt to
   change management at this point.
   - heparin SQ
   - Daily CXR
   - IVF boluses prn for decrease in UOP or CVP <8
   - f/u blood cx, urine cx, stool cx- NGTD
   -f/u ct [**Doctor First Name **] reccs
   .
   # Respiratory Failure:  Intubated in the setting of withdrawal,
   currently now with contribution of multifocal/necrotizing pneumonia.
   -continue to wean vent as tolerated
   - Daily RSBIs, vent care
   .
   # ETOH withdrawal- history of ETOH abuse in past, unclear per family
   current amount of use
   - monitor on CIWA, on propofol, thiamine, folate
   -outside of window for ETOH w/drawal
   .
   #Acute Renal Failure
 Resolved with IVF, now back to baseline.  Based
   on urine output appears to have post-ATN diuresis.
   -monitor fluid status to keep up with output
   .
   # Depressed EF- DDX includes tachycardia from afib rate in 130s during
   TTE, sepsis, ETOH given global depression
   - will need repeat TTE prior to discharge to reevaluate EF, no valvular
   process
   .
   # Anemia - likely [**12-25**] severe pneumonia and sepsis.
   -stable
   -ferritin >1000,
   -active type and screen
   .
   # Atrial fibrillation
 appears to be new onset while in ED likely [**12-25**]
   severe pneumonia, hypoxia and sepsis.  Now converted back to sinus
   rhythm x 5 days.
   .
   # Access -  arterial line placement, RIJ
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2198-3-5**] 04:24 AM 50 mL/hour
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2198-3-2**] 08:15 AM
   Multi Lumen - [**2198-3-2**] 04:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2198-03-06 10:38:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: necrotizing pneumonia, ETOH withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2198-3-5**] 04:30 PM
 URINE CULTURE - At [**2198-3-5**] 04:46 PM
 FEVER - 103.8
F - [**2198-3-5**] 04:00 PM
   -ETT advanced
   -Required neo on and off yesterday
   -Cont require IVF for fluid resuscitation
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Lisinopril
   Unknown;
   Ceftriaxone
   Hives;
   Last dose of Antibiotics:
   Clindamycin - [**2198-3-5**] 11:59 PM
   Aztreonam - [**2198-3-6**] 04:11 AM
   Vancomycin - [**2198-3-6**] 08:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-3-6**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Edema
   Respiratory: ETT
   Genitourinary: Foley
   Flowsheet Data as of  [**2198-3-6**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 38.2
C (100.7
   HR: 82 (68 - 105) bpm
   BP: 89/52(65) {73/45(55) - 134/95(102)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 3 (3 - 20)mmHg
   Total In:
                                                                  5,412 mL
                                                                  2,728 mL
   PO:
   TF:
                                                                    479 mL
                                                                    445 mL
   IVF:
                                                                  4,844 mL
                                                                  2,072 mL
   Blood products:
   Total out:
                                                                  2,588 mL
                                                                  1,680 mL
   Urine:
                                                                  2,588 mL
                                                                  1,630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,824 mL
                                                                  1,048 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 570 (371 - 570) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 62
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.40/47/106/26/2
   Ve: 11 L/min
   PaO2 / FiO2: 212
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   235 K/uL
   140 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   6 mg/dL
   106 mEq/L
   137 mEq/L
   29.0 %
   11.5 K/uL
        [image002.jpg]
                             [**2198-3-4**]  03:57 AM
                             [**2198-3-4**]  07:56 AM
                             [**2198-3-4**]  03:00 PM
                             [**2198-3-5**]  04:04 AM
                             [**2198-3-5**]  06:14 AM
                             [**2198-3-5**]  03:56 PM
                             [**2198-3-5**]  04:21 PM
                             [**2198-3-6**]  04:18 AM
                             [**2198-3-6**]  04:35 AM
                             [**2198-3-6**]  09:02 AM
   WBC
   24.9
   13.9
   11.5
   Hct
   32.4
   30.6
   29.0
   Plt
   196
   222
   235
   Cr
   0.6
   0.5
   0.5
   0.5
   TCO2
   29
   28
   30
   27
   27
   30
   Glucose
   106
   106
   116
   140
   Other labs: PT / PTT / INR:14.9/31.5/1.3, CK / CKMB /
   Troponin-T:182/4/<0.01, ALT / AST:30/102, Alk Phos / T Bili:72/1.0,
   Amylase / Lipase:48/106, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:7.8 %, Mono:2.3 %, Eos:0.5 %, D-dimer:2690 ng/mL, Fibrinogen:1076
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:266 IU/L, Ca++:6.5
   mg/dL, Mg++:1.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan.
   46M ETOH abuse, pneumonia, sepsis, ETOH withdrawal.  Continues to spike
   and make sig secretions but is making progress from hemodynamic
   perspective
 neo weaned to off overnight.   Continue broad spectrum
   abx pending cx data guidance.  Pan cx again overnight with spike.  ETOH
   withdrawal complicating care, cont dose per CIWA scale.  New onset
   afib.
   sepsis
   - empiric coverage vanc/levo/aztreonam/clinda for presumed necrotizing
   pneumonia
   - cont to require pressors intermittently
   - cvp 6 (with PEEP 5) - down from yesterday - is dry - ivf
   resuscitation via bolus and reassess
   necrotizing PNA
   -CT [**Doctor First Name **] following
   -empyema - CT in place - to water seal presently
   resp failure
   - hemodyn issue only sig issue slowing extubation. Improve fluid status
   and eval for extubation
   Renal failure
   -improving
   Pr remains critically ill.
   Time spent on care: 40 min
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2198-3-5**] 04:24 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2198-3-2**] 08:15 AM
   Multi Lumen - [**2198-3-2**] 04:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2198-03-07 08:03:00 Physician Resident Progress Note
Chief Complaint: RLL necrotizing PNA
   24 Hour Events:
 FEVER - 101.7
F - [**2198-3-6**] 03:00 PM
   [**3-6**]
   - Chest tube successfully placed to water seal
   - Bolused NS 3+ L to get off neosynephrine
   - Noted to have rash on back: ? chronic
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Lisinopril
   Unknown;
   Ceftriaxone
   Hives;
   Last dose of Antibiotics:
   Clindamycin - [**2198-3-7**] 12:00 AM
   Vancomycin - [**2198-3-7**] 12:00 AM
   Aztreonam - [**2198-3-7**] 04:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2198-3-6**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2198-3-6**] 04:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-7**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.2
C (98.9
   HR: 73 (73 - 95) bpm
   BP: 95/55(69) {73/42(54) - 127/70(89)} mmHg
   RR: 21 (11 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 9 (3 - 12)mmHg
   Total In:
                                                                  7,227 mL
                                                                  2,400 mL
   PO:
   TF:
                                                                  1,230 mL
                                                                    589 mL
   IVF:
                                                                  5,737 mL
                                                                  1,782 mL
   Blood products:
   Total out:
                                                                  4,970 mL
                                                                  2,310 mL
   Urine:
                                                                  4,920 mL
                                                                  2,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,257 mL
                                                                     90 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 483 (442 - 497) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 73
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.40/47/106/28/2
   Ve: 8.8 L/min
   PaO2 / FiO2: 212
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: rll)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   256 K/uL
   9.4 g/dL
   120 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.6 mEq/L
   6 mg/dL
   105 mEq/L
   138 mEq/L
   28.3 %
   8.6 K/uL
        [image002.jpg]
                             [**2198-3-4**]  07:56 AM
                             [**2198-3-4**]  03:00 PM
                             [**2198-3-5**]  04:04 AM
                             [**2198-3-5**]  06:14 AM
                             [**2198-3-5**]  03:56 PM
                             [**2198-3-5**]  04:21 PM
                             [**2198-3-6**]  04:18 AM
                             [**2198-3-6**]  04:35 AM
                             [**2198-3-6**]  09:02 AM
                             [**2198-3-7**]  03:42 AM
   WBC
   13.9
   11.5
   8.6
   Hct
   30.6
   29.0
   28.3
   Plt
   222
   235
   256
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   29
   28
   30
   27
   27
   30
   Glucose
   106
   116
   140
   120
   Other labs: PT / PTT / INR:14.9/31.5/1.3, CK / CKMB /
   Troponin-T:182/4/<0.01, ALT / AST:30/102, Alk Phos / T Bili:72/1.0,
   Amylase / Lipase:48/106, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:7.8 %, Mono:2.3 %, Eos:0.5 %, D-dimer:2690 ng/mL, Fibrinogen:1076
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:266 IU/L, Ca++:6.6
   mg/dL, Mg++:1.4 mg/dL, PO4:2.2 mg/dL
   Imaging: none today- stable effusion Bibasilar and multifocal
   opacities, retrocardiac consolidation, and right
   pleural effusion are all stable
   Microbiology: 1+ gnr on sputum [**3-5**]
   no growth on pelural fluid
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Mr. [**Known lastname 5277**] is a 46 yo M with PMH HTN, hyperlipid, h/o ETOH abuse
   presenting with hypotension, hypoxia RLL infiltrate, and complex
   parapneumonic effusion/empyema.
   .
   #Sepsis - [**12-25**] large RLL pneumonia with GPC
s in chains on gram stain of
   pleural fluid which was c/w complex parapneumonic effusion vs empyema.
   Currnet cliical picture worrisome for severe Strep penumo infection.
   Continues to require pressor support, with temp spikes throughout the
   day up to 103.  CXR with worsening right sided infiltrate, also some
   left sided infiltrates as wellIntubated [**3-3**] for ETOH withdrawal,
   hypoxemia on NRB, tachypnea.  Urine legionella antigen negative.  CT
   chest [**3-3**] with slight improvement in RLL infiltrate/pleural effusion,
   though ? area of lung necrosis.  Chest tube put to water seal by
   thoracics this morning.
   - thoracics to pull chest tube today likely
   - continue aztreonam, vancomycin, levofloxacin day 7, clindamycin day 5
   - SBT this AM and plan for extubation
   - vanco increased to 1g q8, trough [**3-5**] low -> increase to 1250mg IV q8
   and follow trough
   - thoracics recommending [**Last Name (un) 1599**] to obtain sputum sample, not felt to
   change management at this point.
   - heparin SQ
   - Daily CXR
   - IVF boluses prn for decrease in UOP or CVP <8
   - f/u blood cx, urine cx, stool cx- NGTD
   - f/u ct [**Doctor First Name **] recs
   .
   # Respiratory Failure:  Intubated in the setting of withdrawal,
   currently now with contribution of multifocal/necrotizing pneumonia.
   - continue to wean vent as tolerated
   - Daily RSBIs, vent care
   .
   # ETOH withdrawal- history of ETOH abuse in past, unclear per family
   current amount of use
   - monitor on CIWA, on propofol, thiamine, folate
   -outside of window for ETOH w/drawal
   .
   #Acute Renal Failure
 Resolved with IVF, now back to baseline.  Based
   on urine output appears to have post-ATN diuresis.
   -monitor fluid status to keep up with output
   .
   # Depressed EF- DDX includes tachycardia from afib rate in 130s during
   TTE, sepsis, ETOH given global depression
   - will need repeat TTE prior to discharge to reevaluate EF, no valvular
   process
   .
   # Anemia - likely [**12-25**] severe pneumonia and sepsis.
   -stable
   -ferritin >1000,
   -active type and screen
   .
   # Atrial fibrillation
 appears to be new onset while in ED likely [**12-25**]
   severe pneumonia, hypoxia and sepsis.  Now converted back to sinus
   rhythm x 5 days.
   .
   # Access -  arterial line placement, RIJ
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2198-3-5**] 04:24 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2198-3-2**] 08:15 AM
   Multi Lumen - [**2198-3-2**] 04:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2198-03-07 09:45:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Pneumonia, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.7
F - [**2198-3-6**] 03:00 PM]
   - SBT this morning RSBI 73
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Lisinopril
   Unknown;
   Ceftriaxone
   Hives;
   Last dose of Antibiotics:
   Aztreonam - [**2198-3-7**] 04:00 AM
   Clindamycin - [**2198-3-7**] 08:00 AM
   Vancomycin - [**2198-3-7**] 08:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2198-3-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2198-3-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-7**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.6
C (97.9
   HR: 79 (73 - 95) bpm
   BP: 127/72(91) {74/42(54) - 127/72(91)} mmHg
   RR: 34 (11 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 10 (3 - 12)mmHg
   Total In:
                                                                  7,227 mL
                                                                  3,013 mL
   PO:
   TF:
                                                                  1,230 mL
                                                                    600 mL
   IVF:
                                                                  5,737 mL
                                                                  2,323 mL
   Blood products:
   Total out:
                                                                  4,970 mL
                                                                  3,480 mL
   Urine:
                                                                  4,920 mL
                                                                  3,180 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  2,257 mL
                                                                   -467 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 371 (371 - 497) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 34
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 73
   PIP: 7 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG: ///28/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   256 K/uL
   120 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.6 mEq/L
   6 mg/dL
   105 mEq/L
   138 mEq/L
   28.3 %
   8.6 K/uL
        [image002.jpg]
                             [**2198-3-4**]  07:56 AM
                             [**2198-3-4**]  03:00 PM
                             [**2198-3-5**]  04:04 AM
                             [**2198-3-5**]  06:14 AM
                             [**2198-3-5**]  03:56 PM
                             [**2198-3-5**]  04:21 PM
                             [**2198-3-6**]  04:18 AM
                             [**2198-3-6**]  04:35 AM
                             [**2198-3-6**]  09:02 AM
                             [**2198-3-7**]  03:42 AM
   WBC
   13.9
   11.5
   8.6
   Hct
   30.6
   29.0
   28.3
   Plt
   222
   235
   256
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   29
   28
   30
   27
   27
   30
   Glucose
   106
   116
   140
   120
   Other labs: PT / PTT / INR:14.9/31.5/1.3, CK / CKMB /
   Troponin-T:182/4/<0.01, ALT / AST:30/102, Alk Phos / T Bili:72/1.0,
   Amylase / Lipase:48/106, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:7.8 %, Mono:2.3 %, Eos:0.5 %, D-dimer:2690 ng/mL, Fibrinogen:1076
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:266 IU/L, Ca++:6.6
   mg/dL, Mg++:1.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan.
   46M ETOH abuse, pneumonia, sepsis, ETOH withdrawal.  Continues to spike
   and make sig secretions but is making progress from hemodynamic
   perspective
 neo weaned to off overnight.   Continue broad spectrum
   abx pending cx data guidance.  Pan cx again overnight with spike.  ETOH
   withdrawal complicating care, cont dose per CIWA scale.  New onset
   afib.
   sepsis
   - empiric coverage vanc/levo/aztreonam/clinda for presumed necrotizing
   pneumonia
   - off pressors, hemodynamically iimproved
   - cvp 9
    necrotizing PNA
   -complicated parapneumonic effusion (pH and +GS)
    - CT in place - to water seal. Defer to CT service in terms of chest
   tube mgmt
    resp failure
   - hemodyn improved
   -doing well on SBT
   -plan for extubation today
   Renal failure
   -improving
   Pr remains critically ill.
   Time spent on care: 35 min
   Remainder of plan is outlined in resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2198-3-2**] 08:15 AM
   Multi Lumen - [**2198-3-2**] 04:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2198-03-08 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2198-3-7**] 10:06 AM
   - extubated
   - thoracics will pull chest tube in AM
   Allergies:
   Lisinopril
   Unknown;
   Ceftriaxone
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2198-3-7**] 01:54 PM
   Clindamycin - [**2198-3-8**] 12:00 AM
   Vancomycin - [**2198-3-8**] 12:30 AM
   Aztreonam - [**2198-3-8**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2198-3-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2198-3-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-8**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.3
C (99.2
   HR: 77 (72 - 99) bpm
   BP: 148/80(104) {98/55(70) - 150/96(110)} mmHg
   RR: 30 (17 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 2 (-2 - 12)mmHg
   Total In:
                                                                  4,876 mL
                                                                    753 mL
   PO:
                                                                    450 mL
                                                                    200 mL
   TF:
                                                                    600 mL
   IVF:
                                                                  3,736 mL
                                                                    553 mL
   Blood products:
   Total out:
                                                                  8,065 mL
                                                                  1,705 mL
   Urine:
                                                                  7,765 mL
                                                                  1,705 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,189 mL
                                                                   -952 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 371 (371 - 371) mL
   PS : 5 cmH2O
   RR (Spontaneous): 34
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 7 cmH2O
   SpO2: 95%
   ABG: 7.46/43/73.[**Numeric Identifier **]/29/5
   Ve: 8.6 L/min
   PaO2 / FiO2: 146
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   294 K/uL
   10.1 g/dL
   107 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.1 mEq/L
   6 mg/dL
   105 mEq/L
   140 mEq/L
   30.3 %
   9.9 K/uL
        [image002.jpg]
                             [**2198-3-5**]  06:14 AM
                             [**2198-3-5**]  03:56 PM
                             [**2198-3-5**]  04:21 PM
                             [**2198-3-6**]  04:18 AM
                             [**2198-3-6**]  04:35 AM
                             [**2198-3-6**]  09:02 AM
                             [**2198-3-7**]  03:42 AM
                             [**2198-3-7**]  09:56 AM
                             [**2198-3-7**]  05:01 PM
                             [**2198-3-8**]  04:08 AM
   WBC
   11.5
   8.6
   9.9
   Hct
   29.0
   28.3
   30.3
   Plt
   235
   256
   294
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   30
   27
   27
   30
   32
   Glucose
   116
   140
   120
   114
   107
   Other labs: PT / PTT / INR:14.9/31.5/1.3, CK / CKMB /
   Troponin-T:182/4/<0.01, ALT / AST:30/102, Alk Phos / T Bili:72/1.0,
   Amylase / Lipase:48/106, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:7.8 %, Mono:2.3 %, Eos:0.5 %, D-dimer:2690 ng/mL, Fibrinogen:1076
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:266 IU/L, Ca++:7.2
   mg/dL, Mg++:1.5 mg/dL, PO4:2.8 mg/dL
   Imaging: [**2198-3-6**] CXR: Since earlier today, there is no change and no
   pneumothorax.
   Bibasilar and multifocal opacities, retrocardiac consolidation, and
   right
   pleural effusion are all stable.
   Microbiology: [**3-7**] Stool Cx: pending
   [**3-5**] Sputum Cx: no growth
   [**3-5**] Urine Cx: no growth
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Mr. [**Known lastname 5277**] is a 46 yo M with PMH HTN, hyperlipid, h/o ETOH abuse
   presenting with hypotension, hypoxia RLL infiltrate, and complex
   parapneumonic effusion/empyema.
   .
   .
   #Sepsis - [**12-25**] large RLL pneumonia with GPC
s in chains on gram stain of
   pleural fluid which was c/w complex parapneumonic effusion vs empyema.
   Currnet cliical picture worrisome for severe Strep penumo infection.
   Continues to require pressor support, with temp spikes throughout the
   day up to 103.  CXR with worsening right sided infiltrate, also some
   left sided infiltrates as wellIntubated [**3-3**] for ETOH withdrawal,
   hypoxemia on NRB, tachypnea.  Urine legionella antigen negative.  CT
   chest [**3-3**] with slight improvement in RLL infiltrate/pleural effusion,
   though ? area of lung necrosis.  Chest tube put to water seal by
   thoracics this morning.
   - thoracics to pull chest tube today likely
   - continue aztreonam, vancomycin, levofloxacin day 7, clindamycin day 5
   - SBT this AM and plan for extubation
   - vanco increased to 1g q8, trough [**3-5**] low -> increase to 1250mg IV q8
   and follow trough
   - thoracics recommending [**Last Name (un) 1599**] to obtain sputum sample, not felt to
   change management at this point.
   - heparin SQ
   - Daily CXR
   - IVF boluses prn for decrease in UOP or CVP <8
   - f/u blood cx, urine cx, stool cx- NGTD
   - f/u ct [**Doctor First Name **] recs
   .
   # Respiratory Failure:  Intubated in the setting of withdrawal,
   currently now with contribution of multifocal/necrotizing pneumonia.
   - continue to wean vent as tolerated
   - Daily RSBIs, vent care
   .
   # ETOH withdrawal- history of ETOH abuse in past, unclear per family
   current amount of use
   - monitor on CIWA, on propofol, thiamine, folate
   -outside of window for ETOH w/drawal
   .
   #Acute Renal Failure
 Resolved with IVF, now back to baseline.  Based
   on urine output appears to have post-ATN diuresis.
   -monitor fluid status to keep up with output
   .
   # Depressed EF- DDX includes tachycardia from afib rate in 130s during
   TTE, sepsis, ETOH given global depression
   - will need repeat TTE prior to discharge to reevaluate EF, no valvular
   process
   .
   # Anemia - likely [**12-25**] severe pneumonia and sepsis.
   -stable
   -ferritin >1000,
   -active type and screen
   .
   # Atrial fibrillation
 appears to be new onset while in ED likely [**12-25**]
   severe pneumonia, hypoxia and sepsis.  Now converted back to sinus
   rhythm x 5 days.
   .
   # Access -  arterial line placement, RIJ
   .
   ICU Care
   .
   Nutrition:
   .Fibersource HN (Full) - [**2198-3-5**] 04:24 AM 75 mL/hour
   .Glycemic Control:  Regular insulin sliding scale
   .
   Lines:
   Arterial Line - [**2198-3-2**] 08:15 AM
   Multi Lumen - [**2198-3-2**] 04:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   .
   Communication:  Comments:
   .
   Code status: Full code
   .
   Disposition:ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2198-3-2**] 08:15 AM
   Multi Lumen - [**2198-3-2**] 04:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-03-08 09:56:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Pneumonia, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 Successfully extubated
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Lisinopril
   Unknown;
   Ceftriaxone
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2198-3-7**] 01:54 PM
   Aztreonam - [**2198-3-8**] 04:00 AM
   Vancomycin - [**2198-3-8**] 08:00 AM
   Clindamycin - [**2198-3-8**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-3-8**] 08:00 AM
   Omeprazole (Prilosec) - [**2198-3-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-8**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37
C (98.6
   HR: 80 (72 - 99) bpm
   BP: 122/83(312) {98/55(70) - 153/96(312)} mmHg
   RR: 26 (17 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 2 (-2 - 12)mmHg
   Total In:
                                                                  4,876 mL
                                                                  1,213 mL
   PO:
                                                                    450 mL
                                                                    320 mL
   TF:
                                                                    600 mL
   IVF:
                                                                  3,736 mL
                                                                    893 mL
   Blood products:
   Total out:
                                                                  8,065 mL
                                                                  2,155 mL
   Urine:
                                                                  7,765 mL
                                                                  2,155 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,189 mL
                                                                   -942 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.46/43/73.[**Numeric Identifier **]/29/5
   PaO2 / FiO2: 146
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : Rt base to mid, Diminished: Rt base, Rhonchorous:
   Rt base to mid)
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   294 K/uL
   107 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.1 mEq/L
   6 mg/dL
   105 mEq/L
   140 mEq/L
   30.3 %
   9.9 K/uL
        [image002.jpg]
                             [**2198-3-5**]  06:14 AM
                             [**2198-3-5**]  03:56 PM
                             [**2198-3-5**]  04:21 PM
                             [**2198-3-6**]  04:18 AM
                             [**2198-3-6**]  04:35 AM
                             [**2198-3-6**]  09:02 AM
                             [**2198-3-7**]  03:42 AM
                             [**2198-3-7**]  09:56 AM
                             [**2198-3-7**]  05:01 PM
                             [**2198-3-8**]  04:08 AM
   WBC
   11.5
   8.6
   9.9
   Hct
   29.0
   28.3
   30.3
   Plt
   235
   256
   294
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   30
   27
   27
   30
   32
   Glucose
   116
   140
   120
   114
   107
   Other labs: PT / PTT / INR:14.9/31.5/1.3, CK / CKMB /
   Troponin-T:182/4/<0.01, ALT / AST:30/102, Alk Phos / T Bili:72/1.0,
   Amylase / Lipase:48/106, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:7.8 %, Mono:2.3 %, Eos:0.5 %, D-dimer:2690 ng/mL, Fibrinogen:1076
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:266 IU/L, Ca++:7.2
   mg/dL, Mg++:1.5 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan.
    46M ETOH abuse, pneumonia, sepsis, ETOH withdrawal.  Continues to
   spike and make sig secretions but is making progress from hemodynamic
   perspective
 neo weaned to off overnight.   Continue broad spectrum
   abx pending cx data guidance.  Pan cx again overnight with spike.  ETOH
   withdrawal complicating care, cont dose per CIWA scale.  New onset
   afib.
    sepsis
   - empiric coverage vanc/levo/aztreonam/clinda for presumed necrotizing
   pneumonia
   - narrow coverage - d/c clinda today.  Pull off vanc tomorrow if cont
   to do well.
   - off pressors, hemodynamically stable x 48hrs
    necrotizing PNA
   -complicated parapneumonic effusion (pH and +GS)
    - CT in place - to water seal. Minimal drainage.
            -Defer to CT service in terms of chest tube mgmt.
    resp failure
   -successfully extubated yesterday
   -doing well on NC
   Renal failure
   -resolved
   ETOH abuse
   -CIWA scale
   [**Hospital 5428**] rehab
   -social work consult
   Afib
   -resolved
   Lines
   -pull Lt aline
   Remainder of plan is outlined in resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2198-3-2**] 08:15 AM
   Multi Lumen - [**2198-3-2**] 04:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: